US08383657B2
N-(3-fluorobenzyl)-N-methyl-N′-(5-methyl-1,3-thiazol-2-yl)urea
5-Methylthiazol-2-amine (571 mg, 5.00 mmol) was dissolved into dichloromethane (30 mL) and cooled to near −45° C. Diphosgene (360 μL, 3.0 mmol) was added rapidly over a second or two, and the mixture was stirred for 5 minutes before diisopropylethylamine (1.74 mL, 10 mmol) was added. The solution was stirred for another 30 minutes, 3-fluorobenzyl-methylamine (1.03 mL, 7.5 mmol) was added, and after another couple of minutes, the cold bath was removed. When the reaction solution had warmed to near room temperature, it was quenched with 1 M aqueous potassium phosphate monobasic (15 mL). The aqueous phase was separated and back-extracted with dichloromethane, and the combined organic phases were washed with more 1 M aqueous KH2PO4 (5 mL). The aqueous phase was separated and back-extracted with dichloromethane. The combined organic phases were dried (sodium sulfate), concentrated, and chromatographed on acidic alumina (ethyl acetate/hexanes) to give the title compound.

reactant | 5-Methylthiazol-2-amine | 5.00 mmol, 571 mg | CC1=CN=C(S1)N | C4H6N2S
reactant | Diphosgene | 3.0 mmol, 360 μL | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | diisopropylethylamine | 10 mmol, 1.74 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-fluorobenzyl-methylamine | 7.5 mmol, 1.03 mL | FC=1C=C(CNC)C=CC1 | C8H10FN
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-(3-fluorobenzyl)-N-methyl-N′-(5-methyl-1,3-thiazol-2-yl)urea | FC=1C=C(CN(C(=O)NC=2SC(=CN2)C)C)C=CC1 | C13H14FN3OS
